### PR TITLE
feat: begin tiny & miny

### PR DESCRIPTION
**Pull request by LeoDog896**
Defines tiny and miny, two important games for infinitesimals. Progresses #23

### CODE REVIEW

File: CombinatorialGames/Game/Special.lean [hunk 1]
```diff
@@ -130,4 +130,27 @@ theorem star_fuzzy_down : star ‖ down := by
   rw [← neg_fuzzy_neg_iff, neg_down, neg_star]
   exact star_fuzzy_up
 
+section TinyMiny
+
+variable (x : PGame)
+
+/-! ## Tiny and Miny -/
+
+/-- A tiny game ⧾ is defined as {0 | {0 | -G}}, and is amongst the smallest of the infinitesimals. -/
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Special.lean]: (For some reason that I can't imagine), ⧾ and ⧿ are unicode symbols that are designed *specifically* for combinatorial game theory. Should we use these?

File: CombinatorialGames/Game/Special.lean [hunk 2]
```diff
@@ -130,4 +130,27 @@ theorem star_fuzzy_down : star ‖ down := by
...
+/-- A miny game ⧿ is defined as {{G | 0} | 0}. -/
+def miny : PGame :=
+  ⟨PUnit, PUnit, fun _ ↦ ⟨PUnit, PUnit, fun _ ↦ x, fun _ ↦ 0⟩, fun _ ↦ 0⟩
+
+theorem tiny_neg_miny : miny x = -tiny x := by
+  rw [miny, tiny]
+  simp
+
+/-- **Tiny is tiny**. The tiny games are among the smallest of the infinitesimals. -/
+proof_wanted gt_tiny (x : PGame) (hx : 0 < x) : ∃ n : ℕ, tiny n < x
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Special.lean]: We need the Archimedian principle for games to prove this.

File: CombinatorialGames/Game/Special.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: If we have the tools, might as well use them!

Unfortunately there aren't any keybinds for them in the VSCode Lean extension. Is there anything we could come up with that would be unlikely to clash with anything else?

File: CombinatorialGames/Game/Special.lean (hunk 2 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: What's the Archimedean principle on games?

File: CombinatorialGames/Game/Special.lean [hunk 3]
```diff
@@ -19,7 +19,7 @@ universe u
 
 namespace PGame
 
-/-! ### Star -/
+/-! ## Star -/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:22]: As I understand it, the convention on heading levels within Mathlib is:

1. Only for the title in the module docstring.
2. For sections within the module docstring.
3. For subsections of the file

So I believe `###` was correct.

File: CombinatorialGames/Game/Special.lean [hunk 4]
```diff
@@ -130,4 +130,27 @@ theorem star_fuzzy_down : star ‖ down := by
   rw [← neg_fuzzy_neg_iff, neg_down, neg_star]
   exact star_fuzzy_up
 
+section TinyMiny
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:133]: Do we need a `section` for this material? (conversely, would it be useful to `section` off the other special games?)

Also, I believe the convention is to put the section docstring before the `section`.

File: CombinatorialGames/Game/Special.lean (hunk 1 above)
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]: Perhaps?
```suggestion
/-- A tiny game ⧾G is defined as {0 | {0 | -G}}, and is amongst the smallest of the infinitesimals. -/
```

File: CombinatorialGames/Game/Special.lean [hunk 5]
```diff
@@ -130,4 +130,27 @@ theorem star_fuzzy_down : star ‖ down := by
...
+def tiny : PGame :=
+  ⟨PUnit, PUnit, fun _ ↦ 0, fun _ ↦ ⟨PUnit, PUnit, fun _ ↦ 0, fun _ ↦ -x⟩⟩
+
+/-- A miny game ⧿ is defined as {{G | 0} | 0}. -/
+def miny : PGame :=
+  ⟨PUnit, PUnit, fun _ ↦ ⟨PUnit, PUnit, fun _ ↦ x, fun _ ↦ 0⟩, fun _ ↦ 0⟩
+
+theorem miny_eq_neg_tiny : miny x = -tiny x := by
+  rw [miny, tiny]
+  simp
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]:
```suggestion
@[simp]
theorem neg_tiny : -tiny x = miny x := by
  simp [miny, tiny]

@[simp]
theorem neg_miny : -miny x = tiny x := by
  simp [miny, tiny]
```
You can even compress this down to two lines if you'd like.

File: CombinatorialGames/Game/Special.lean [hunk 6]
```diff
@@ -130,4 +130,27 @@ theorem star_fuzzy_down : star ‖ down := by
...
+
+/-- **Tiny is tiny**. The tiny games are among the smallest of the infinitesimals. -/
+proof_wanted gt_tiny (x : PGame) (hx : 0 < x) : ∃ n : ℕ, tiny n < x
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]: Maybe?
```suggestion
proof_wanted exists_tiny_lt_of_pos (x : PGame) (hx : 0 < x) : ∃ n : ℕ, tiny n < x
```

Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean]: Note that `n : PGame` is *not* the same or even identical to `Ordinal.toPGame n`, though it is equivalent. Does that change anything?

File: CombinatorialGames/Game/Special.lean (hunk 3 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Special.lean:22]: Oh! Interesting :+1:

File: CombinatorialGames/Game/Special.lean (hunk 1 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Special.lean]: tiny/teenie and miny/meenie work good: if tiny and/or miny or taken, we can use teenie or meenie.

File: CombinatorialGames/Game/Special.lean (hunk 2 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Special.lean]: This only applies to short games! Whoops! Just that there exists a natural number game greater than any specified short game.

File: CombinatorialGames/Game/Special.lean (hunk 4 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Special.lean:133]: I added section to isolate the variable declaration: it might be good to add section to all the special game categories.

File: .vscode/settings.json [hunk 7]
```diff
@@ -1,3 +1,9 @@
 {
-    "editor.rulers" : [100]
+    "editor.rulers": [
+        100
+    ],
+    "lean4.input.customTranslations": {
```
Comment (vihdzp) [inline .vscode/settings.json:5]: I had no idea this existed, awesome!

File: CombinatorialGames/Game/Special.lean (hunk 4 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Special.lean:133]: I'm generally not a fan of explicit `variable`s. They're a bit easy to forget and as the API develops you usually end up with theorems which shouldn't have explicit variables but do. But that's a minor style complaint.

File: CombinatorialGames/Game/Special.lean [hunk 8]
```diff
@@ -130,4 +130,35 @@ theorem star_fuzzy_down : star ‖ down := by
...
+
+variable (x : PGame)
+
+/-! ## Tiny and Miny -/
+
+/-- A tiny game ⧾G is defined as {0 | {0 | -G}}, and is amongst the smallest of the infinitesimals. -/
+def tiny : PGame :=
+  ⟨PUnit, PUnit, fun _ ↦ 0, fun _ ↦ ⟨PUnit, PUnit, fun _ ↦ 0, fun _ ↦ -x⟩⟩
+
+@[inherit_doc] notation:1024 "⧾"x => tiny x
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:143]: It probably makes sense for this to have the same precedence as `-x`.
```suggestion
@[inherit_doc] prefix:75 "⧾" => tiny
```

File: CombinatorialGames/Game/Special.lean [hunk 9]
```diff
@@ -130,4 +130,35 @@ theorem star_fuzzy_down : star ‖ down := by
...
+
+/-- A miny game ⧿G is defined as {{G | 0} | 0}. -/
+def miny : PGame :=
+  ⟨PUnit, PUnit, fun _ ↦ ⟨PUnit, PUnit, fun _ ↦ x, fun _ ↦ 0⟩, fun _ ↦ 0⟩
+
+@[inherit_doc] notation:1024 "⧿"x => miny x
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean:149]:
```suggestion
@[inherit_doc] prefix:75 "⧿" => miny x
```

**Review by vihdzp — COMMENTED** [review]
Otherwise LGTM.
(By the way, you haven't reverted the change from `###` to `##`).

**Comment by vihdzp** [comment]
Closing in favor of #42
